US04049823
2.84 g. of 3-acetoxy-3-p-biphenylyl-1-butanol are boiled for 2 hours with 2 g. of KOH in 50 ml. of methanol, water and chloroform are added and the mixture is worked up to give 3-p-biphenylyl-1,3-butanediol, m.p. 115°-117°.

reactant | 3-acetoxy-3-p-biphenylyl-1-butanol | C(C)(=O)OC(CCO)(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C18H20O3
reactant | KOH | [OH-].[K+]
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-p-biphenylyl-1,3-butanediol | C1(=C(C=CC=C1)C(CCO)(C)O)C1=CC=CC=C1 | C16H18O2
